US07968557B2
To a solution of 3-[2-(3,4,5-trimethoxy-phenylamino)-pyrrolo[2,3-d]pyrimidin-7-yl]-benzoyl chloride in dichloromethane is added 5 equivalents of methylamine solution (2.0 M in tetrahydrofuran). After stirring at room temperature for 1 hour, the reaction is quenched with water. Removal of the solvent followed by purification with reverse phase HPLC gives N-methyl-3-[2-(3,4,5-trimethoxy-phenylamino)-pyrrolo[2,3-d]pyrimidin-7-yl]-benzamide as a white solid.

reactant | 3-[2-(3,4,5-trimethoxy-phenylamino)-pyrrolo[2,3-d]pyrimidin-7-yl]-benzoyl chloride | COC=1C=C(C=C(C1OC)OC)NC=1N=CC2=C(N1)N(C=C2)C=2C=C(C(=O)Cl)C=CC2 | C22H19ClN4O4
reactant | methylamine | 2.0 M, 5 equivalents | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-methyl-3-[2-(3,4,5-trimethoxy-phenylamino)-pyrrolo[2,3-d]pyrimidin-7-yl]-benzamide | CNC(C1=CC(=CC=C1)N1C=CC2=C1N=C(N=C2)NC2=CC(=C(C(=C2)OC)OC)OC)=O | C23H23N5O4
